US04782168
After dissolving 6.8 g (0.05 moles) of zinc chloride in 120 ml of dehydrated tetrahydrofuran, 3.8 g (0.1 moles) of sodium borohydride were added to the solution. The mixture was agitated at 40° C. for 1 hour. After the mixture was cooled with ice, 9.8 g (0.05 moles) of 2,3-dihydro-2,3,5-trimethyl-6-(2-methyl-1-oxoethyl)-4H-pyran-4-one were dripped. After agitating the mixture for 3 hours, 8.7 g of 2,3-dihydro-2,3,5-trimethyl-6-(2-methyl-1-hydroxyethyl)-4H-pyran-4-one were obtained. The yield was 88%.

reactant | sodium borohydride | 0.1 moles, 3.8 g | [BH4-].[Na+]
reactant | 2,3-dihydro-2,3,5-trimethyl-6-(2-methyl-1-oxoethyl)-4H-pyran-4-one | 0.05 moles, 9.8 g | CC1OC(=C(C(C1C)=O)C)C(CC)=O | C11H16O3
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
catalyst | zinc chloride | 0.05 moles, 6.8 g | [Cl-].[Zn+2].[Cl-]
product | 2,3-dihydro-2,3,5-trimethyl-6-(2-methyl-1-hydroxyethyl)-4H-pyran-4-one | 8.7 g, yield was 88% | CC1OC(=C(C(C1C)=O)C)C(CC)O | C11H18O3
